US09079835B2
A flamed-dried 20 mL vial fitted with screw-cap septa was charged with Dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hex-3-enedioate (1 equiv, 0.855 mmol, 510 mg), MeOH (10 mL) and PTSA (0.1 equiv, 0.086 mmol, 16.4 mg). The reaction was stirred at rt for 14 h, quenched with sat. aq. NaHCO3, and diluted with CH2Cl2 (20 mL) and H2O (10 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layers were washed with H2O (20 mL), dried with Na2SO4, concentrated in vacuo, and purified by flash chromatography (65% EtOAc/Hex) to afford Dimethyl 3,4-bis(8-hydroxyoctyl)hex-3-enedioate (321 mg, 0.75 mmol, 88%) as an inseparable 2:1 mixture of isomers. TLC Rf=0.19 (50% EtOAc/Hex); 1HNMR (500 MHz): δ 3.61-3.70 (t plus two ovlp. s, 10H, J=6.7 Hz), 3.13 (s, 2.7H), 3.11 (s, 1.3H), 2.07-2.18 (4H), 1.57 (quint., 4H, J=7.8 Hz), 1.49 (bs, 2H), 1.26-1.40 (20H); 13CNMR (125 MHz): δ 174.4, 174.3, 130.7, 130.6, 62.99, 51.8, 37.6, 37.2, 33.2, 32.82, 32.75, 29.6, 29.5, 29.44, 29.35, 29.32, 28.3, 28.0, 25.71, 25.68; FTIR: 3375, 2926, 2854, 1736, 1434, 1332, 1242, 1192, 1155, 1048 cm−1; HRMS-ESI: calc. for C24H44NaO6 (M+Na)+: 451.3036. found: 451.3022.

reactant | Dimethyl 3,4-bis(8-((tetrahydro-2H-pyran-2-yl)oxy)octyl)hex-3-enedioate | 0.855 mmol, 510 mg, 1 equiv | O1C(CCCC1)OCCCCCCCCC(CC(=O)OC)=C(CC(=O)OC)CCCCCCCCOC1OCCCC1 | C34H60O8
reactant | PTSA | 0.086 mmol, 16.4 mg, 0.1 equiv | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | MeOH | 10 mL | CO | CH4O
product | Dimethyl 3,4-bis(8-hydroxyoctyl)hex-3-enedioate | 0.75 mmol, 321 mg, 88% | OCCCCCCCCC(CC(=O)OC)=C(CC(=O)OC)CCCCCCCCO | C24H44O6
